US07652009B2
Step 1: Preparation of 1-(3-fluoro-4-methoxyphenyl)-N-methoxy-N-methyl-5-oxopyrrolidine-3-carboxamide
To a solution of 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid (5 g, 19.7 mmol), N-methoxymethanamine hydrochloride (2.18 g, 22.4 mmol), HOBt (4.0 g, 29.7 mmol) and Et3N (4.2 mL, 29.7 mmol) in 60 mL of DMF was added EDC (5.7 g, 29.7 mmol) at 0° C. The reaction was warmed to RT in 1 h and stirred at RT for 16 h. The mixture was diluted with 100 mL of EtOAc, and the resulted solution was washed with 50 mL of satd. NaHCO3 followed by 50 mL of brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was re-crystallized in 80% EtOAc/hexane to afford white solid. MS (ESI pos. ion) m/z: 297.3 (M+H). Calc'd Exact Mass for C14H17FN2O4: 296.29.

reactant | 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid | 19.7 mmol, 5 g | FC=1C=C(C=CC1OC)N1CC(CC1=O)C(=O)O | C12H12FNO4
reactant | N-methoxymethanamine hydrochloride | 22.4 mmol, 2.18 g | Cl.CONC
reactant | HOBt | 29.7 mmol, 4.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 29.7 mmol, 4.2 mL | CCN(CC)CC | C6H15N
reactant | EDC | 29.7 mmol, 5.7 g
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(3-fluoro-4-methoxyphenyl)-N-methoxy-N-methyl-5-oxopyrrolidine-3-carboxamide | FC=1C=C(C=CC1OC)N1CC(CC1=O)C(=O)N(C)OC | C14H17FN2O4
